US04514408
To a mixture of 0.023 mol of 3-[3-(4-methylpiperidinomethyl)phenoxy]propylamine and 30 ml of pyridine, stirred at 0° C., 0.047 mol of nicotinic acid 1-oxide chloride hydrochloride is added, portionwise; then the mixture is stirred for 1 hour at room temperature and the solvent is evaporated under reduced pressure. The residue is taken up with N hydrochloric acid and the salts thus obtained are eliminated by filtration, then the mixture is extracted 3 times with 100 ml of ethyl acetate and sodium hydroxide is added thereto to basic pH. The mixture is extracted with ethyl acetate containing 10% ethanol, the organic phase is dried over anhydrous sodium sulfate and the solvent is evaporated under reduced pressure. An oil which crystallizes slowly is obtained. The product is triturated in diethyl ether and filtered to give 4.5 g of crude product which is chromatographed on silica in a mixture methanol: chloroforme 15:35 and crystallized from ethyl acetate. Thus 2.7 g of N-[3-[3-(4-methylpiperidinomethyl)phenoxy] propyl]-3-pyridinecarboxamide 1-oxide are obtained, SR 58037, m.p. 109°-111° C.; yield: 35% of the theoretical value.

reactant | 3-[3-(4-methylpiperidinomethyl)phenoxy]propylamine | 0.023 mol | CC1CCN(CC1)CC=1C=C(OCCCN)C=CC1 | C16H26N2O
reactant | nicotinic acid 1-oxide chloride hydrochloride | 0.047 mol | Cl.[Cl-].C(C1=C[N+](=CC=C1)[O-])(=O)O
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-[3-[3-(4-methylpiperidinomethyl)phenoxy] propyl]-3-pyridinecarboxamide 1-oxide | 2.7 g, yield: 35% | CC1CCN(CC1)CC=1C=C(OCCCNC(=O)C=2C=[N+](C=CC2)[O-])C=CC1 | C22H29N3O3
